* D:\UOM FOE\second sem\Electronics\Bandpass filter design\Filter for E4\Bandpass for E4.asc
* Generated by LTspice 24.1.6 for Windows.
R1 N001 N008 60k
R2 N003 N001 10.272k
R3 N004 N003 10.272k
R4 N006 N005 10.272k
R5 N002 N001 10.272k
R6 N010 N001 10.272k
R8 N005 N011 700k
C1 N005 N004 47n
C2 N002 N006 47n
R7 N011 N010 10.272k
V1 N008 0 AC 1
V2 N007 0 15
V3 N009 0 -15
X§U1 0 N001 N007 N009 N003 TL072
X§U2 0 N004 N007 N009 N005 TL072
X§U3 0 N006 N007 N009 N002 TL072
X§U4 N011 0 N007 N009 N010 TL072
.ac oct 100 1 1k
* Output
* Input
.lib TL072.lib
.backanno
.end
